US07220775B2
N-(4-METHYLPHENYL)-2-[4-(1-OXIDO-2-PYRIDINYL)-1-PIPERAZINYL]-6-(1-PIPERIDINYL)-4-PYRIMIDINAMINE
A solution of 3-cholorperbenzoic acid (450 mg, 2.6 mmol), and 30% H2O2 (0.1 mL) in CH2Cl2 (2 mL) was added to a solution of N-(4-methylphenyl)-6-(1-piperidinyl)-2-[4-(2-pyridinyl)-1-piperazinyl]-4-pyrimidinamine (150 mg, 0.300 mmol) in CH2Cl2 at 0° C. The resulting mixture was gradually warmed to room temperature and stirred for 24 h, crude product was treated with saturated NaHCO3 (50 mL) and extracted with EtOAC (3×50 mL). Combined organic layers were washed with brine (2×50 mL), dried over Na2SO4, filtered, concentrated in vacuo, and purified by chromatography on silica using hexane/EtOAc (1:3) to give the desired product.

reactant | H2O2 | 0.1 mL | OO | H2O2
reactant | N-(4-methylphenyl)-6-(1-piperidinyl)-2-[4-(2-pyridinyl)-1-piperazinyl]-4-pyrimidinamine | 0.300 mmol, 150 mg | CC1=CC=C(C=C1)NC1=NC(=NC(=C1)N1CCCCC1)N1CCN(CC1)C1=NC=CC=C1 | C25H31N7
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(4-METHYLPHENYL)-2-[4-(1-OXIDO-2-PYRIDINYL)-1-PIPERAZINYL]-6-(1-PIPERIDINYL)-4-PYRIMIDINAMINE | CC1=CC=C(C=C1)NC1=NC(=NC(=C1)N1CCCCC1)N1CCN(CC1)C1=[N+](C=CC=C1)[O-] | C25H31N7O
